US08557858B2
(E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide naphthalene-2-sulfonate
2.00 g (E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzene sulfonyl]-1H-pyrrol-3-yl}-acrylamide was suspended in 40 mL isopropanol. 1.46 g naphthalene-2-sulfonic acid (70%) was added and the suspension was stirred for 24 h. The suspension was filtered, the filter cake was washed with 20 mL isopropanol and dried. An off-white solid (2.72 g) was obtained.

reactant | (E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzene sulfonyl]-1H-pyrrol-3-yl}-acrylamide | 2.00 g | NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O | C23H21N5O3S
reactant | naphthalene-2-sulfonic acid | 1.46 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | (E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide naphthalene-2-sulfonate | 2.72 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O.NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O | InChI=1S/C23H21N5O3S.C10H8O3S/c1-27-16-19(14-25-27)18-7-9-20(10-8-18)32(30,31)28-13-12-17(15-28)6-11-23(29)26-22-5-3-2-4-21(22)24;11-14(12,13)10-6-5-8-3-1-2-4-9(8)7-10/h2-16H,24H2,1H3,(H,26,29);1-7H,(H,11,12,13)/b11-6+;
